US08633173B2
156 c) N-{2-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-benzyl}-N-methyl-methanesulfonamide was prepared 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 2.151 mmol) and N-(2-aminomethyl-benzyl)-N-methyl-methanesulfonamide (540.0 mg, 2.365 mmol) in a manner analogous to Example 2d. 1H NMR (400 MHz, CDCl3, δ, ppm): 7.88 (d, J=6.7 Hz, 1H), 7.46-7.42 (m, 1H), 7.38-7.30 (m, 3H), 6.88 (t, J=7.6 Hz, 1H), 6.50 (d, J=7.9 Hz, 1H), 5.25-5.19 (m, 1H), 4.60 (d, J=5.5 Hz, 2H), 4.40 (s, 2H), 2.87 (s, 3H), 2.73 (s, 3H). MS=380 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.151 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | N-(2-aminomethyl-benzyl)-N-methyl-methanesulfonamide | 2.365 mmol, 540.0 mg | NCC1=C(CN(S(=O)(=O)C)C)C=CC=C1 | C10H16N2O2S
product | N-{2-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-benzyl}-N-methyl-methanesulfonamide | ClC1=NN2C(C(=CC=C2)NCC2=C(CN(S(=O)(=O)C)C)C=CC=C2)=N1 | C16H18ClN5O2S
